Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:4][H:5],5.11738994682
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13],-1.83712675643
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7],4.37045836465
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[H:4],4.03389794699
[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.8991699426
[H:1][O:2][C:3]#[C:5][C:6][O:7][C:8]([H:9])[H:10].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-3.99474670335
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.35648166063
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]=[C:3]([H:4])[H:5],0.76190179146
[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.9206327962900005
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][H:12]>>[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-0.278783839466
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[O:7][H:8],5.91356273106
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.75755954221
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.7407282881
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:1]=[C:2][H:3],5.2438378624
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],1.5314886252000002
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],1.67695824054
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-1.9921848916
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.8010233205
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][H:5],2.28766596704
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14],2.4804328209
[C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],-5.307568317069999
[O:1][C@:2]([O:3][H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]([O:3][H:4])[C:10]([H:11])([H:12])[H:13],0.236824608961
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.56724729809
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-2.82598920313
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:10]([H:11])=[C:12]([H:13])[H:14],1.31005490779
[C:2](\[H:3])(=[C:4]\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.7798407426700003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],4.44927184809
[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.668780986880001
